US07268133B2
4-(4-Chlorophenyl)-2-hydroxy-4-oxobut-2-enoic acid ethyl ester lithium salt (10 g, 38.37 mmol) was dissolved in acetic acid (400 ml). After the solution was cooled to 10° C. with an ice-water bath, a concentrated aqueous solution of sodium nitrite (2.86 g, 40.29 mmol) was added dropwise, keeping the temperature between 10 and 15° C. The reaction mixture was stirred for another 45 minutes, and 2-chlorophenylhydrazine HCl salt (8.5 g, 46.04 mmol) was added in portions. Stirring was continued for 3 hours. Upon completion of the reaction, the reaction mixture was poured into 600 ml ice-cold water. A yellow solid precipitated and after 2 hours, it was collected, washed with water, and dried to give crude 4-(4-chlorophenyl)-2-[(2-chlorophenyl)hydrazono]-3-nitroso-4-oxobutyric acid ethyl ester which was used in the next step without further purification.

reactant | 4-(4-Chlorophenyl)-2-hydroxy-4-oxobut-2-enoic acid ethyl ester lithium salt | 38.37 mmol, 10 g | [Li].C(C)OC(C(=CC(=O)C1=CC=C(C=C1)Cl)O)=O
reactant | sodium nitrite | 40.29 mmol, 2.86 g | N(=O)[O-].[Na+]
reactant | 2-chlorophenylhydrazine HCl salt | 46.04 mmol, 8.5 g | Cl.ClC1=C(C=CC=C1)NN
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 4-(4-chlorophenyl)-2-[(2-chlorophenyl)hydrazono]-3-nitroso-4-oxobutyric acid ethyl ester | C(C)OC(C(C(C(=O)C1=CC=C(C=C1)Cl)N=O)=NNC1=C(C=CC=C1)Cl)=O | C18H15Cl2N3O4
